US08048878B2
Synthesis of (6S*,8S*,9aR*)-8-(tert-butyldimethylsilanyloxy)-6-phenyloctahydroquinolizin-4-one
A solution of (6S*,9aR*)-8-hydroxy-6-phenyloctahydroquinolizin-4-one (96.4 mg) in DMF (5.0 mL) was cooled to 0° C. Imidazole (80.3 mg), TBSCl (88.9 mg), and DMAP (4.8 mg) were sequentially added to the reaction solution, which was then stirred at room temperature overnight. Saturated sodium bicarbonate water and ethyl acetate were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 77 mg of the title compound. The property values of the compound are as follows.

reactant | (6S*,9aR*)-8-hydroxy-6-phenyloctahydroquinolizin-4-one | 96.4 mg | OC1C[C@H](N2C(CCC[C@@H]2C1)=O)C1=CC=CC=C1 | C15H19NO2
reactant | Imidazole | 80.3 mg | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 88.9 mg | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 4.8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (6S*,8S*,9aR*)-8-(tert-butyldimethylsilanyloxy)-6-phenyloctahydroquinolizin-4-one | 77 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N2C(CCC[C@@H]2C1)=O)C1=CC=CC=C1 | C21H33NO2Si
